US07045530B2
5′-phenyl-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-[1]benzofuran]
Under N2, the mixture of the product of 1E (200 mg, 0.68 mmol), phenylboronic acid (Aldrich, 276 mg, 1.36 mmol), Pd2(dba)3 (Strem Chemicals, 12.4 mg, 0.014 mmol) and 1,3-bis(2,6-di-i-propylphenyl)imidazolium chloride, (Strem Chemicals, 95%, 18.3 mg, 0.041 mmol) in Na2CO3 (aqueous, 2M, 2 mL, 4 mmol) and ethanol (8 mL) was stirred at 80° C. for 15 hours. The reaction was monitored with TLC. After the reaction was complete, it was concentrated under reduced pressure and the residue was diluted with EtOAc (30 mL). It was then washed with brine (2×5 mL). The organic solution was concentrated and the title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.40) as oil (90 mg, 45% yield). 1H NMR (MeOH-d4, 300 MHz) δ 1.52–1.62 (m, 1H), 1.68–1.89 (m, 2H), 2.00–2.06 (m, 1H), 2.14–2.25 (m, 1 H), 2.81–3.32 (m, 7H), 3.47 (d, J=15.9 Hz, 1H), 6.76 (d, J=8.6 Hz, 1H), 7.24 (tt, J=7.1, 1.2 Hz, 1H), 7.32–7.42 (m, 4H), 7.49–53 (m, 1H) ppm. MS (DCl/NH3) m/z 292 (M+H)30 .

reactant | phenylboronic acid | 1.36 mmol, 276 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 1,3-bis(2,6-di-i-propylphenyl)imidazolium chloride | [Cl-].C(C)(C)C1=C(C(=CC=C1)C(C)C)[N+]1=CN(C=C1)C1=C(C=CC=C1C(C)C)C(C)C
reactant | Na2CO3 | 4 mmol, 2M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | ethanol | 8 mL | C(C)O | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
solvent | NH3.H2O | N.O
catalyst | Pd2(dba)3 | 0.014 mmol, 12.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5′-phenyl-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-[1]benzofuran] | C1(=CC=CC=C1)C=1C=CC2=C(CC3(O2)C2CCN(C3)CC2)C1 | C20H21NO
